US06716863B2
(iii) Benzyl 3-(3-iodopropyl)phenyl Ether
Using 3-[3-(benzyloxy)phenyl]propyl methanesulfonate (19.7 g) and sodium iodide (29.25 g), the same reaction as Reference Example 9-(v) was carried out to yield the titled compound (18.4 g) as an oily substance.

reactant | 3-[3-(benzyloxy)phenyl]propyl methanesulfonate | 19.7 g | CS(=O)(=O)OCCCC1=CC(=CC=C1)OCC1=CC=CC=C1 | C17H20O4S
reactant | sodium iodide | 29.25 g | [I-].[Na+]
product | Benzyl 3-(3-iodopropyl)phenyl Ether | 18.4 g | ICCCC=1C=C(C=CC1)OCC1=CC=CC=C1 | C16H17IO
